US07696229B2
NaH (280 mg, 7.00 mmol) was added to a chilled (0° C.) solution of benzo[d]oxazol-2(3H)-one (650 mg, 4.81 mmol) in tetrahydrofuran (20 mL). After 0.5 hours, methyl iodide (1.03 g, 7.25 mmol) was added dropwise with stirring, maintaining a temperature of 0° C. The resulting solution was then stirred for 6 hours at room temperature. The reaction mixture was then quenched by the addition of ethanol (10 mL), and the mixture was concentrated. Water (50 mL) was then added and the resulting solution was extracted with dichloromethane (3×20 mL). The organic layers were combined, dried (Na2SO4), filtered and concentrated to afford 0.62 g (82%) of 3-methylbenzo[d]oxazol-2(3H)-one as a light red solid.

reactant | NaH | 7.00 mmol, 280 mg | [H-].[Na+]
reactant | benzo[d]oxazol-2(3H)-one | 4.81 mmol, 650 mg | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | methyl iodide | 7.25 mmol, 1.03 g | CI | CH3I
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-methylbenzo[d]oxazol-2(3H)-one | 0.62 g, 82% | CN1C(OC2=C1C=CC=C2)=O | C8H7NO2
